US04826531
A solution of phenol (1.34 g, 14.3 mmol) in DMF (25 ml) was stirred with anhydrous potassium carbonate (0.99 g, 7.2 mmol) at 70°-80° C. for 40 minutes. 4-Chloro-3-pyridinecarboxaldehyde (2.02 g, 14.3 mmol) and copper bronze powder (0.10 g) were added and the resulting suspension stirred at 100°-110° C. for 2 hours. The reaction mixture was cooled, filtered and the residues washed with ether. The combined ether washings were diluted to 400 ml with more ether, washed with saturated brine (4×) and the solvent removed to give 4-phenoxy-3-pyridinecarboxaldehyde as a pale yellow crystalline solid (2.62 g); melting point 74°-75° C.; infrared max (nujol) 1590, 1695, 2760 cm-1 ; 1H NMR delta (CDCl3) 6.75 (1H broad), 7.15 (2H, d), 7.35 (1H, t), 7.50 (2H, t), 8.5-9.7 (2H, broad), 10.7 (1H, s).

reactant | phenol | 14.3 mmol, 1.34 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 7.2 mmol, 0.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-Chloro-3-pyridinecarboxaldehyde | 14.3 mmol, 2.02 g | ClC1=C(C=NC=C1)C=O | C6H4ClNO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
catalyst | copper bronze | 0.10 g | [Cu] | Cu
product | 4-phenoxy-3-pyridinecarboxaldehyde | 2.62 g | O(C1=CC=CC=C1)C1=C(C=NC=C1)C=O | C12H9NO2
